**********************************
* Model created by               *
*   Uni.Dipl.-Ing. Arpad Buermen *
*   arpad.burmen@ieee.org        *
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
* February 2001
*   SPICE3
*$
****************************************
* (c)2000 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Buermen@fe.uni-lj.si         *
****************************************
.MODEL SS16 D
 + is=0.000005978
 + n=1.408
 + rs=0.06809
 + xti=-11.80
 + cjo=0.0000000002959
 + m=.3333
 + vj=.75
 + isr=0.0000000001
 + bv=60
 + ibv=2u
 + tt=0.000001271
*$
****************************************
* (c)2000 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Buermen@fe.uni-lj.si         *
****************************************
.Model SS14 D
 + is=0.000000861
 + n=1.034
 + rs=0.04527
 + xti=-15.67
 + cjo=0.0000000003007
 + m=.4259
 + vj=.4316
 + isr=0.0000000001
 + bv=40
 + ibv=40u
 + tt=0.00000001053



*$
****************************************
* (c)2000 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Buermen@fe.uni-lj.si         *
****************************************
.Model SS13 D
 + is=0.000000861
 + n=1.034
 + rs=0.04527
 + xti=-15.67
 + cjo=0.0000000003007
 + m=.4259
 + vj=.4316
 + isr=0.0000000001
 + bv=30
 + ibv=40u
 + tt=0.00000001053
*$
**********************************
* Model created by               *
*   Uni.Dipl.-Ing. Arpad Buermen *
*   arpad.burmen@ieee.org        *
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
.subckt 1n5817 1 2
ddio 1 2 legd
dgr 1 2 grd
.model legd d is = 1.95868E-005 n = 1.23882 rs = 0.105815
+ eg = 0.512544 xti = 2.48138
+ cjo = 2.48678E-010 vj = 0.609887 m = 0.457128 fc = 0.5
+ tt = 1.4427E-009 bv = 24.2 ibv = 1.5 af = 1 kf = 0
.model grd d is = 1.99423E-008 n = 2.44723 rs = 0.0571102
+ eg = 2.8 xti = 3.5
.ends
*$
**********************************
* Model created by               *
*   Uni.Dipl.-Ing. Arpad Buermen *
*   arpad.burmen@ieee.org        *
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
* April 2001
*   SPICE3
.subckt 1n5822 1 2
ddio 1 2 legd
dgr 1 2 grd
.model legd d is = 2.37487E-007 n = 1.98477 rs = 0.0171579
+ eg = 1.79999 xti = 3.99991
+ cjo = 5.47556E-010 vj = 1.64135 m = 0.603662 fc = 0.5
+ tt = 1.4427E-009 bv = 48.4 ibv = 3.5 af = 1 kf = 0
.model grd d is = 1.27781E-005 n = 1.2149 rs = 0.0250254
+ eg = 0.55507 xti = 0.794212
.ends
*$
**********************************
* Model created by               *
*   Uni.Dipl.-Ing. Arpad Buermen *
*   arpad.burmen@ieee.org        *
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
.model mbr0540 d is = 9.11035E-006 n = 1.33753 rs = 0.120933
+ eg = 0.69 xti = 2
+ cjo = 1.9378E-010 vj = 0.250053 m = 0.398352 fc = 0.5
+ tt = 1.4427E-009 bv = 44 ibv = 0.05 af = 1 kf = 0
*$
**********************************
* Model created by               *
*   Uni.Dipl.-Ing. Arpad Buermen *
*   arpad.burmen@ieee.org        *
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
* May 2001
*   SPICE3
* Forward direction: 1 -> 2
.subckt mbr10h100 1 2
ddio 1 2 legd
dgr 1 2 grd
.model legd d is = 1.33794E-007 n = 1.56268 rs = 0.00559469
+ eg = 1.03421 xti = 3.99998
+ cjo = 1.07835E-009 vj = 0.639913 m = 0.469475 fc = 0.5
+ tt = 1.4427E-009 bv = 110 ibv = 8 af = 1 kf = 0
.model grd d is = 1.34945E-007 n = 1.16898 rs = 0.0346856
+ eg = 0.765938 xti = 3.91054
.ends
*$
**********************************
* Model created by               *
*   Uni.Dipl.-Ing. Arpad Buermen *
*   arpad.burmen@ieee.org        *
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
* May 2001
*   SPICE3
* Diode 1, forward direction: 1 -> 2
* Diode 2, forward direction: 3 -> 2
.subckt mbr10h100ct 1 2 3
ddio1 1 2 legd
dgr1 1 2 grd
ddio2 3 2 legd
dgr2 3 2 grd
.model legd d is = 8.70909E-012 n = 1.14276 rs = 0.00755343
+ eg = 1.1688 xti = 4
+ cjo = 7.03566E-010 vj = 0.430248 m = 0.447657 fc = 0.5
+ tt = 1.4427E-009 bv = 110 ibv = 0.1 af = 1 kf = 0
.model grd d is = 1.46329E-006 n = 1.50452 rs = 0.0278637
+ eg = 0.780071 xti = 4
.ends
*$
****************************************
* (c)2000 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Buermen@fe.uni-lj.si         *
****************************************

.SUBCKT MBR4045PT 1 2 3
.MODEL DIO D(
+   N=1.14842
+  IS=8.11831E-006
+  RS=0.00848623
+  EG=0.637858
+ XTI=2.08364
+ CJO=2.90353E-009
+  VJ=0.502988
+   M=0.446262
+  FC=0.5
+  TT=1.4427E-009
+  BV=45
+ IBV=0.001
+  KF=0
+  AF=1 )

.MODEL GR D(
+   N=1.99794
+  IS=1.00014E-012
+  RS=0.01
+  EG=1.11084
+ XTI=3.00018 )

DD1 1 2 DIO
DG1 1 2 GR
DD2 3 2 DIO
DG2 3 2 GR
.ENDS
*$
****************************************
* (c)2000 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Buermen@fe.uni-lj.si         *
****************************************

.SUBCKT MBR4060PT 1 2 3
.MODEL DIO D(
+   N=1.40529
+  IS=1.7648E-005
+  RS=0.0101444
+  EG=0.689197
+ XTI=2.0719
+ CJO=1.73602E-009
+  VJ=0.373164
+   M=0.402288
+  FC=0.5
+  TT=1.4427E-009
+  BV=60
+ IBV=0.001
+  KF=0
+  AF=1 )

.MODEL GR D(
+   N=1.99633
+  IS=1.00019E-012
+  RS=0.01
+  EG=1.11111
+ XTI=3.00025 )

DD1 1 2 DIO
DG1 1 2 GR
DD2 3 2 DIO
DG2 3 2 GR
.ENDS
*$
****************************************
* (c)2000 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Buermen@fe.uni-lj.si         *
****************************************

.SUBCKT MBR745 1 2
.MODEL DIO D(
+   N=1.26803
+  IS=6.69366E-006
+  RS=0.0133035
+  EG=0.767148
+ XTI=2.06139
+ CJO=8.35628E-010
+  VJ=0.574325
+   M=0.447529
+  FC=0.5
+  TT=1.4427E-009
+  BV=45
+ IBV=0.0001
+  KF=0
+  AF=1 )

.MODEL GR D(
+   N=1.97425
+  IS=1.00072E-012
+  RS=0.01
+  EG=1.11121
+ XTI=3.00027 )

DD 1 2 DIO
DG 1 2 GR
.ENDS
*$
****************************************
* (c)2000 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Buermen@fe.uni-lj.si         *
****************************************

.SUBCKT MBR760 1 2
.MODEL DIO D(
+   N=1.35454
+  IS=5.04569E-006
+  RS=0.0294402
+  EG=0.734311
+ XTI=2.04495
+ CJO=6.45753E-010
+  VJ=0.900614
+   M=0.516774
+  FC=0.5
+  TT=1.4427E-009
+  BV=60
+ IBV=0.0005
+  KF=0
+  AF=1 )

.MODEL GR D(
+   N=1.02324
+  IS=1.00552E-012
+  RS=0.0165043
+  EG=1.00418
+ XTI=2.99065 )

DD 1 2 DIO
DG 1 2 GR
.ENDS
*$
**********************************
* Model created by               *
*   Uni.Dipl.-Ing. Arpad Buermen *
*   arpad.burmen@ieee.org        *
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
* March 2001
*   SPICE3
* 1,2 ... anode
* 3   ... common cathode
.subckt mbrb1545ct 1 2 3
ddio1 1 3 legd
dgr1 1 3 grd
ddio2 2 3 legd
dgr2 2 3 grd
.model legd d is = 1E-015 n = 0.666307 rs = 0.0231544
+ eg = 0.776686 xti = 3.25063
+ cjo = 8.81801E-010 vj = 0.411639 m = 0.453203 fc = 0.5
+ tt = 1.4427E-009 bv = 49.5 ibv = 0.1 af = 1 kf = 0
.model grd d is = 3.22668E-006 n = 1.16113 rs = 0.0200099
+ eg = 0.774812 xti = 1.33691
.ends
*$
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jul 14, 99
* MODEL FORMAT: PSpice
.MODEL mbrb2545ct_d d
+IS=1.93665e-08 RS=0.01 N=0.732886 EG=0.7176
+XTI=0.535301 BV=58 IBV=0.0001 CJO=2.05041e-09
+VJ=0.4 M=0.410919 FC=0.5 TT=1e-09
+KF=0 AF=1
*$
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jul 15, 99
* MODEL FORMAT: PSpice
.MODEL mbrd20100ct_d d
+IS=1.9e-06 RS=0.0191117 N=1.31633 EG=0.732464
+XTI=3.80447 BV=150 IBV=0.0001 CJO=5.24e-10
+VJ=0.7 M=0.5 FC=0.5 TT=4.214e-08
+KF=0 AF=1
*$
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jul 19, 99
* MODEL FORMAT: PSpice
.MODEL mbrf1045 d
+IS=3.46063e-06 RS=0.0141262 N=1.08107 EG=0.694062
+XTI=0.532339 BV=60 IBV=0.0001 CJO=1.14679e-09
+VJ=1.5 M=0.560347 FC=0.5 TT=1e-09
+KF=0 AF=1
*$
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jul 19, 99
* MODEL FORMAT: PSpice
.MODEL mbrf1060 d
+IS=3.95535e-06 RS=0.0206647 N=1.22018 EG=0.710013
+XTI=0.733611 BV=80 IBV=0.0001 CJO=9.9734e-10
+VJ=1.31037 M=0.569065 FC=0.5 TT=1e-09
+KF=0 AF=1
*$
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jul 19, 99
* MODEL FORMAT: PSpice
.MODEL mbrf1645 d
+IS=2.01061e-06 RS=0.01 N=1.06993 EG=0.666643
+XTI=4 BV=60 IBV=0.0001 CJO=1.9472e-09
+VJ=0.746202 M=0.498406 FC=0.5 TT=1e-09
+KF=0 AF=1
*$
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jul 19, 99
* MODEL FORMAT: PSpice
.MODEL mbrf1660 d
+IS=4.94635e-07 RS=0.0119983 N=1.05695 EG=0.698901
+XTI=3.84702 BV=80 IBV=0.0001 CJO=1.42758e-09
+VJ=1.49076 M=0.581162 FC=0.5 TT=1e-09
+KF=0 AF=1

*$
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jul 19, 99
* MODEL FORMAT: PSpice
.MODEL mbrf2560ct_d d
+IS=4.93966e-06 RS=0.0127517 N=1.26208 EG=0.800165
+XTI=0.510662 BV=80 IBV=0.0001 CJO=1.54648e-09
+VJ=0.4 M=0.441179 FC=0.5 TT=1e-09
+KF=0 AF=1


*$
****************************************
* (c)1999 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
****************************************
.MODEL SB040 D (
+   N=3.00905
+  IS=0.000876513
+  RS=0.0331322
+  EG=0.69
+ XTI=2
+ CJO=1.10349E-010
+  VJ=0.664822
+   M=0.502061
+  FC=0.5
+  TT=1.4427E-009
+  BV=40
+ IBV=2
+  KF=0
+  AF=1 )
*$
**********************************
* Model created by               *
*   Uni.Dipl.-Ing. Arpad Buermen *
*   arpad.burmen@ieee.org        *
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
* December 2000
*   SPICE3
.subckt sb140 1 2
ddio 1 2 legd
dgr 1 2 grd
.model legd d is = 2.41774E-006 n = 2.5213 rs = 0.0180036
+ eg = 1.8 xti = 3.9996
+ cjo = 2.92263E-010 vj = 1.79059 m = 0.67056 fc = 0.5
+ tt = 1.4427E-009 bv = 44 ibv = 5 af = 1 kf = 0
.model grd d is = 4.84085E-006 n = 1.00268 rs = 0.0661033
+ eg = 0.400002 xti = 3
.ends
*$
**********************************
* Model created by               *
*   Uni.Dipl.-Ing. Arpad Buermen *
*   arpad.burmen@ieee.org        *
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
* December 2000
*   SPICE3
.subckt sb160 1 2
ddio 1 2 legd
dgr 1 2 grd
.model legd d is = 1.12267E-005 n = 1.70097 rs = 0.054986
+ eg = 0.453686 xti = 3.95373
+ cjo = 2.17446E-010 vj = 0.929504 m = 0.523842 fc = 0.5
+ tt = 1.4427E-009 bv = 66 ibv = 0.95 af = 1 kf = 0
.model grd d is = 2.24535E-005 n = 3.29614 rs = 0.00882619
+ eg = 1.8 xti = 3
.ends
*$
**********************************
* Model created by               *
*   Uni.Dipl.-Ing. Arpad Buermen *
*   arpad.burmen@ieee.org        *
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
* May 2001
*   SPICE3
* Forward direction: 1 -> 2
.subckt sb2h100 1 2
ddio 1 2 legd
dgr 1 2 grd
.model legd d is = 7.55898E-011 n = 1.42857 rs = 0.0179482
+ eg = 1.50167 xti = 0.5
+ cjo = 2.01912E-010 vj = 0.482094 m = 0.430815 fc = 0.5
+ tt = 1.4427E-009 bv = 110 ibv = 0.2 af = 1 kf = 0
.model grd d is = 1.35955E-005 n = 1.95241 rs = 0.0738416
+ eg = 0.745064 xti = 3.99955
.ends
*$
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jul 14, 99
* MODEL FORMAT: PSpice
.MODEL sb340 d
+IS=1e-07 RS=0.0188244 N=0.793962 EG=0.6
+XTI=0.5 BV=52 IBV=0.0001 CJO=4.20134e-10
+VJ=1.5 M=0.396547 FC=0.5 TT=1e-09
+KF=0 AF=1
*$
**********************************
* Model created by               *
*   Uni.Dipl.-Ing. Arpad Buermen *
*   arpad.burmen@ieee.org        *
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
* May 2001
*   SPICE3
* Forward direction: 1 -> 2
.subckt sb3h100 1 2
ddio 1 2 legd
dgr 1 2 grd
.model legd d is = 3.41542E-008 n = 1.75209 rs = 0.00724936
+ eg = 1.35816 xti = 0.5
+ cjo = 3.50706E-010 vj = 0.526428 m = 0.477227 fc = 0.5
+ tt = 1.4427E-009 bv = 110 ibv = 2.5 af = 1 kf = 0
.model grd d is = 5.52848E-007 n = 1.52499 rs = 0.0460489
+ eg = 0.902411 xti = 0.500148
.ends
*$
****************************************
* (c)2000 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Buermen@fe.uni-lj.si         *
****************************************

.SUBCKT SB540 1 2
.MODEL DIO D(
+   N=0.590551
+  IS=9.20153E-009
+  RS=0.041309
+  EG=0.69
+ XTI=8.18961E-005
+ CJO=1.26418E-009
+  VJ=0.827749
+   M=0.456431
+  FC=0.5
+  TT=1.4427E-009
+  BV=40
+ IBV=0.01
+  KF=0
+  AF=1 )

.MODEL GR D(
+   N=0.824869
+  IS=1.11945E-012
+  RS=0.0137677
+  EG=1.08758
+ XTI=2.99654 )

DD 1 2 DIO
DG 1 2 GR
.ENDS
*$
****************************************
* (c)2000 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Buermen@fe.uni-lj.si         *
****************************************

.SUBCKT SB560 1 2
.MODEL DIO D(
+   N=1.09755
+  IS=5.51411E-007
+  RS=0.0425717
+  EG=0.656024
+ XTI=2.04158
+ CJO=1.08891E-009
+  VJ=0.279874
+   M=0.345573
+  FC=0.5
+  TT=1.4427E-009
+  BV=60
+ IBV=0.0005
+  KF=0
+  AF=1 )

.MODEL GR D(
+   N=1.03547
+  IS=1.30736E-012
+  RS=0.00880338
+  EG=1.15943
+ XTI=3.01552 )

DD 1 2 DIO
DG 1 2 GR
.ENDS
*$
****************************************
* (c)1999 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
****************************************

* Diode 1: nodes 1 and 2
* Diode 2: nodes 3 and 2

.SUBCKT SBL4040PT 1 2 3
D1 1 2 LEGD
D2 3 2 LEGD
.MODEL LEGD D (
+   N=1.37716
+  IS=0.000104271
+  RS=0.00440842
+  EG=0.733534
+ XTI=2.0271
+ CJO=2.97377E-009
+  VJ=0.454391
+   M=0.443073
+  FC=0.5
+  TT=1.4427E-009
+  BV=40
+ IBV=0.5
+  KF=0
+  AF=1 )
.ENDS
*$
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jul 19, 99
* MODEL FORMAT: PSpice
.MODEL sblf1640ct_d d
+IS=9.4472e-07 RS=0.0172352 N=0.873646 EG=0.693228
+XTI=0.5 BV=50 IBV=0.0001 CJO=1.50148e-09
+VJ=1.5 M=0.653095 FC=0.5 TT=1e-09
+KF=0 AF=1
*$
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jul 19, 99
* MODEL FORMAT: PSpice
.MODEL sblf25l30ct_d d
+IS=4.51766e-08 RS=0.0119667 N=0.646326 EG=0.629006
+XTI=1.41995 BV=40 IBV=0.001 CJO=3.32331e-09
+VJ=3 M=0.657729 FC=0.5 TT=1e-09
+KF=0 AF=1


*$
****************************************
* (c)1999 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
****************************************
.MODEL SL13 D (
+   N=1.62722
+  IS=2.70884E-005
+  RS=0.022326
+  EG=0.877137
+ XTI=2.0278
+ CJO=4.73821E-010
+  VJ=0.651969
+   M=0.516077
+  FC=0.5
+  TT=1.4427E-009
+  BV=30
+ IBV=0.05
+  KF=0
+  AF=1 )


*$
****************************************
* (c)1999 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
****************************************
.MODEL SL23 D (
+   N=1.26262
+  IS=1.55836E-005
+  RS=0.0164204
+  EG=0.721708
+ XTI=2.01648
+ CJO=9.95085E-010
+  VJ=0.479367
+   M=0.474828
+  FC=0.5
+  TT=1.4427E-009
+  BV=30
+ IBV=0.05
+  KF=0
+  AF=1 )

*$
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jul 19, 99
* MODEL FORMAT: PSpice
.MODEL sl43 d
+IS=3.28335e-05 RS=0.0102752 N=1.03316 EG=0.6
+XTI=2.15486 BV=40 IBV=0.001 CJO=3.17277e-09
+VJ=3 M=0.723186 FC=0.5 TT=1e-09
+KF=0 AF=1


*$
****************************************
* (c)2000 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Buermen@fe.uni-lj.si         *
****************************************
.MODEL SL44 D(
+   N=1.30464
+  IS=9.39389E-005
+  RS=0.00887496
+  EG=0.661056
+ XTI=3.04726
+ CJO=3.19877E-009
+  VJ=4.22076
+   M=0.85
+  FC=0.5
+  TT=1.4427E-009
+  BV=40
+ IBV=0.0005
+  KF=0
+  AF=1 )

*$
****************************************
* (c)2000 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Buermen@fe.uni-lj.si         *
****************************************
.Model SS12 D
 + is=0.000000861
 + n=1.034
 + rs=0.04527
 + xti=-15.67
 + cjo=0.0000000003007
 + m=.4259
 + vj=.4316
 + isr=0.0000000001
 + bv=20
 + ibv=40u
 + tt=0.00000001053
*$
****************************************
* (c)2000 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Buermen@fe.uni-lj.si         *
****************************************
.MODEL SS15 D
 + is=0.000005978
 + n=1.408
 + rs=0.06809
 + xti=-11.80
 + cjo=0.0000000002959
 + m=.3333
 + vj=.75
 + isr=0.0000000001
 + bv=50
 + ibv=2u
 + tt=0.000001271
*$
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jul 20, 99
* MODEL FORMAT: PSpice
.MODEL ss210 d
+IS=8.11678e-06 RS=0.0176142 N=2 EG=0.9147
+XTI=0.5 BV=120 IBV=1e-05 CJO=1e-10
+VJ=0.7 M=0.5 FC=0.5 TT=1e-09
+KF=0 AF=1


*$
